US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 63 μL (0.55 mmol) of 3-fluoro-2-methylaniline. After purification by chromatography on silica (eluent dichloromethane/methanol 96/4) then trituration in diethyl ether, 3.5 mg (2%) of 8-(3-fluoro-2-methyl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a beige solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3-fluoro-2-methylaniline | 0.55 mmol, 63 μL | FC=1C(=C(N)C=CC1)C | C7H8FN
product | 8-(3-fluoro-2-methyl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 3.5 mg, 2% | FC=1C(=C(C=CC1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(C)C(=O)[O-] | InChI=1S/C18H14FN3O3S.C3H6O2/c1-10-14(19)3-2-4-15(10)22-26(24,25)11-5-6-16-13(9-11)12-7-8-20-17(12)18(23)21-16;1-2-3(4)5/h2-9,20,22H,1H3,(H,21,23);2H2,1H3,(H,4,5)/p-1
